US04156732
2-Ethyl-3-(4-bromo-3-sulfamoylbenzoyl)-benzo[b]furan
is obtained as described in Example 1 from 10.9 g 4-bromo-3-sulfamoylbenzoyl chloride and 6 g 2-ethylbenzo[b]furan in the presence of 11.7 g aluminum chloride. Colorless crystals, m.p. 202°-206° C. (ether).

reactant | 4-bromo-3-sulfamoylbenzoyl chloride | 10.9 g | BrC1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C7H5BrClNO3S
reactant | 2-ethylbenzo[b]furan | 6 g | C(C)C1=CC2=C(O1)C=CC=C2 | C10H10O
reactant | aluminum chloride | 11.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | ether | CCOCC | C4H10O
product | 2-Ethyl-3-(4-bromo-3-sulfamoylbenzoyl)-benzo[b]furan | C(C)C1=C(C2=C(O1)C=CC=C2)C(C2=CC(=C(C=C2)Br)S(N)(=O)=O)=O | C17H14BrNO4S
